US04600709
50 g of phosphorus pentoxide are covered, by pouring, with 400 ml of methanesulphonic acid and the whole is stirred at 60° until a clear solution has formed. 30.4 g (0.2 mol) of 1,2-dimethoxy-4-methylbenzene and 43 g (0.2 mol) of 2-methylbenzenesulphonic acid (80% strength) are then added, and the internal temperature is increased to 80° for 30 minutes. The mixture is poured onto 4 liters of ice-water and extracted with ethyl acetate. The extract solution is washed twice with water, dried over sodium sulphate, filtered and concentrated by evaporation in a rotary evaporator. The oil remaining crystallises immediately. It is triturated with diethyl ether and filtered off. In this manner colourless crystals of 1,2-dimethoxy-4-(2-methylphenylsulphonyl)-5-methylbenzene having a melting point of 126°-128° are obtained.

reactant | phosphorus pentoxide | 50 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | methanesulphonic acid | 400 ml | CS(=O)(=O)O | CH4O3S
reactant | 1,2-dimethoxy-4-methylbenzene | 0.2 mol, 30.4 g | COC1=C(C=C(C=C1)C)OC | C9H12O2
reactant | 2-methylbenzenesulphonic acid | 0.2 mol, 43 g | CC1=C(C=CC=C1)S(=O)(=O)O | C7H8O3S
product | 1,2-dimethoxy-4-(2-methylphenylsulphonyl)-5-methylbenzene | COC1=C(C=C(C(=C1)C)S(=O)(=O)C1=C(C=CC=C1)C)OC | C16H18O4S
